US05401752
To 170 ml of a solution containing 18.67 g of N-(4-t-butylbenzylidene)methylamine in acetonitrile, 18.00 g of homophthalic anhydride was added and the mixture was allowed to react at room temperature for 14 hours. After evaporating the solvent under reduced pressure, the residue was purified by silica gel column chromatography [chloroform/ethyl acetate (6/1)] to obtain 33.73 g of 3-(4-t-butylphenyl)-4-hydroxycarbonyl-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline (mixture of diastereomers). The thus obtained mixture of diastereomers was again subjected to silica gel column chromatography [chloroform/ethyl acetate (6/1)] to obtain 15.2 g of cis compound and 8.03 g of trans compound.

reactant | N-(4-t-butylbenzylidene)methylamine | 18.67 g | C(C)(C)(C)C1=CC=C(C=CN)C=C1 | C12H17N
reactant | homophthalic anhydride | 18.00 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(4-t-butylphenyl)-4-hydroxycarbonyl-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline | 33.73 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(C(C2=CC=CC=C2C1C(=O)O)=O)C | C21H23NO3
